US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-[4-[3-(N-morpholinyl)propyl]oxyphenyl]-4-pyrimidineamine with 3,4-dimethoxyaniline gave N2-(3,4-dimethoxyphenyl)-5-fluoro-N4-[4-[3-(N-morpholinyl)propyl]oxyphenyl]-2,4-pyrimidinediamine. LCMS: retn, time: 14.72 min.; purity: 94%; MS (m/e): 484 (MH+); 1H NMR (CDCl3): δ 7.89 (1H, d, J=3.3 Hz), 7.47 (2H, d, J=9 Hz), 7.22 (1H, d, J=2.2 Hz), 6.93–6.76 (5H, m), 6.64 (1H, d, J=2.2 Hz), 4.01 (2H, t, J=5.6 Hz), 3.86 (3H, s), 3.72 (3H, s), 3.71 (4H, m), 2.58–2.44 (6H, m), 1.97 (2H, m).

reactant | 2-chloro-5-fluoro-N4-[4-[3-(N-morpholinyl)propyl]oxyphenyl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCCCN1CCOCC1)F | C17H20ClFN4O2
reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
product | N2-(3,4-dimethoxyphenyl)-5-fluoro-N4-[4-[3-(N-morpholinyl)propyl]oxyphenyl]-2,4-pyrimidinediamine | COC=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCCCN1CCOCC1)F | C25H30FN5O4
